US05814508
Into a 100 mL graduated cylinder was placed 79.4 mL of an aqueous reaction mixture containing 1.26M 3-cyanopentanoic acid ammonium salt (0.1 mole 3-cyanopentanoic acid ammonium salt, produced by the enzymatic hydrolysis of 2-ethylsuccinonitrile; Example 13 filtered product mixture), then 17.2 mL of 40 wt. % methylamine (6.21 g methylamine, 0.2 mole) was added and the final volume adjusted to 100 mL with distilled water. The final concentrations of 3-cyanopentanoic acid ammonium salt and methylamine were 1.0M and 2.0M, respectively. To the resulting solution was added 0.636 g (5 wt. %/wt. of 3-cyanopentanoic acid) of 5% Pd on carbon powder, and the resulting mixture charged to a 300-mL 314 SS Autoclave Engineers EZE-Seal stirred autoclave equipped with a Dispersimax® turbine-type impeller. After flushing the reactor with nitrogen, the contents of the reactor were stirred at 1000 rpm and heated at 140° C. under 500 psig of hydrogen gas for 4 h. Samples (ca. 1.5 mL) were removed via a sampling tube over the course of the reaction for analysis. After cooling to room temperature, analysis of the final reaction mixture by gas chromatography indicated a 69.8% yield of 4-ethyl-1-methylpyrrolidin-2-one and a 20.4% yield of 4-ethylpyrrolidin-2-one, with no 3-cyanopentanoic acid ammonium salt remaining.

reactant | methylamine | 0.2 mole, 6.21 g | CN | CH5N
reactant | 3-cyanopentanoic acid ammonium salt | [NH4+].C(#N)C(CC(=O)[O-])CC
catalyst | Pd on carbon | 0.636 g | [Pd] | Pd
solvent | water | O | H2O
product | 4-ethyl-1-methylpyrrolidin-2-one | 69.8% yield | C(C)C1CC(N(C1)C)=O | C7H13NO
